US03941782
4,4-Dimethyl-7-(3-methyl-2-octyl)-9-[4-(morpholino)butyryloxy]-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran hydrochloride
6.4 g. (18.7 mmole) of 4,4-Dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1] benzopyran, 4.33 g. (21.0 mmoles) of dicyclohexylcarbodiimide and 4.26 g. (20.3 mmoles) of γ-morpholinobutyric acid hydrochloride were combined with 325 ml. of methylene chloride and stirred at room temperature for a total of 24 hours. The insoluble by-product of dicyclohexylurea was separated by filtration and the methylene chloride was removed using a rotary evaporator. The brown viscous residue was dissolved in about 100 ml. of benzene and the benzene solution was filtered to remove a small amount of insoluble material. The benzene was removed using a rotary evaporator and the remaining residue was triturated with approximately 250 ml. of ether. The solid which formed was filtered, washed with ether and dried to give 8.6 g. of beige solid. The material was crystallized from benzene/ether to give 3.5 g. of product as a colorless solid, m.p. 151°-153°C. The material was pure by thin layer chromatography (10% MeOH/CHCl3); the infrared and nuclear magnetic resonance spectra were in agreement with the proposed structure. An additional 3.3 g. of somewhat impure material was recovered from the mother liquor.

reactant | 4,4-Dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1] benzopyran | 18.7 mmole | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)O)C | C23H34O2
reactant | dicyclohexylcarbodiimide | 21.0 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | γ-morpholinobutyric acid hydrochloride | 20.3 mmoles | Cl.O1CCN(CC1)CCCC(=O)O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 4,4-Dimethyl-7-(3-methyl-2-octyl)-9-[4-(morpholino)butyryloxy]-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCN2CCOCC2)=O)C | InChI=1S/C31H47NO4.ClH/c1-6-7-8-11-22(2)23(3)24-20-27(35-29(33)14-10-15-32-16-18-34-19-17-32)30-25-12-9-13-26(25)31(4,5)36-28(30)21-24;/h20-23H,6-19H2,1-5H3;1H
